US07714135B2
1. 3-Cyano-2-(3-phenyl-propanoylamino)-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester
In a sealed test tube hydrocinnamic acid (1.5 mmol) is suspended in a mixture of DMF (0.15 mmol) and dichloromethane (7.5 mL). A solution of oxalyl chloride (3.0 mmol) in dichloromethane (7.5 mL) is then added and the mixture stirred for 1 h at room temperature. After that, the solvents and excess of oxalyl chloride are removed in vacuo, the residue is dissolved in toulene (7.5 mL) and added to 2-amino-3-cyano-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester (1 mmol) in a vial suitable for microwave technology. Diisopropyl ethyl amine (1.5 mmol) is added, the vial is capped and the mixture heated for 30 min at 150° C. using microwave technology. Purification is achieved by filtration followed by washing (water) and crystallization (ethanol).

reactant | hydrocinnamic acid | 1.5 mmol | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | DMF | 0.15 mmol | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.0 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-3-cyano-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester | 1 mmol | C(C)OC(=O)N1CC2=C(CC1)C(=C(S2)N)C#N | C11H13N3O2S
reactant | Diisopropyl ethyl amine | 1.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
product | 3-Cyano-2-(3-phenyl-propanoylamino)-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(CC1)C(=C(S2)NC(CCC2=CC=CC=C2)=O)C#N | C20H21N3O3S
